US05703240
4-(5-Methylsulfanyl-tetrazol-1-yl)-phenol
A solution of sodium hydroxide (2.06 g) in water (120 ml) followed by methyl iodide (3.5 ml) was added to a solution of 1-(4-hydroxyphenyl)-1H-tetrazole-5-thiol (10 g) in tetrahydrofuran (30 ml) and stirred at room temperature for 5 h. The mixture was poured into brine (120 ml), extracted with ethyl acetate (3×60 ml), dried (Na2 SO4) and evaporated to give the title compound as a brown solid (10.64 g). T.l.c. (Dichloromethane/methanol (990:10)), Rf=0.42

reactant | sodium hydroxide | 2.06 g | [OH-].[Na+]
reactant | methyl iodide | 3.5 ml | CI | CH3I
reactant | 1-(4-hydroxyphenyl)-1H-tetrazole-5-thiol | 10 g | OC1=CC=C(C=C1)N1N=NN=C1S | C7H6N4OS
solvent | water | 120 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | brine | 120 ml | [Cl-].[Na+].O
product | 4-(5-Methylsulfanyl-tetrazol-1-yl)-phenol | 10.64 g | CSC1=NN=NN1C1=CC=C(C=C1)O | C8H8N4OS
